US05192797
1.3. N-(2,2-Dimethoxyethyl)acetamide
A solution of 32 g (313 mmol) of acetic anhydride in 200 ml of benzene is added, drop by drop, to a suspension, stirred and heated to reflux, of 40 g (290 mmol) of potassium carbonate and 30 g (285 mmol) of aminoacetaldehyde dimethyl acetal in 200 ml of benzene. Reflux is maintained for 30 min., then the mixture is cooled and filtered, the precipitate is washed with benzene, the filtrate is evaporated and the residual oil is treated with vegetable charcoal in 300 ml of diethyl ether. After filtration and evaporation, 36.8 g (250 mmol) of product are obtained. n25D =1.4450.

reactant | acetic anhydride | 313 mmol, 32 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | 290 mmol, 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | aminoacetaldehyde dimethyl acetal | 285 mmol, 30 g | COC(CN)OC | C4H11NO2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-(2,2-Dimethoxyethyl)acetamide | COC(CNC(C)=O)OC | C6H13NO3
